US05981572
1-(2,2-Dimethoxyethoxy)-4-fluoro-3-methylbenzene
A mixture of 5-fluoro-4-methylbenzofuran and 5-fluoro-6-methylbenzofuran (14.95 g), N-bromosuccinimide (16.57 g), benzoyl peroxide (0.32 g) and carbon tetrachloride (375 ml) was heated under reflux under the illumination of an 80 W flood lamp for 20 h. The mixture was cooled, and filtered and the filtrate evaporated to dryness to give the crude product as an oil (24.0 g). This material was combined with a similar crude product (6.94 g) from an identical reaction run on a smaller scale and purified by chromatography on silica (900 g) using an ether hexane mixture (1:30) as eluant to give the title compound (13.5 g) as an oil.

reactant | 5-fluoro-4-methylbenzofuran | FC=1C=CC2=C(C=CO2)C1C | C9H7FO
reactant | 5-fluoro-6-methylbenzofuran | 14.95 g | FC=1C(=CC2=C(C=CO2)C1)C | C9H7FO
reactant | N-bromosuccinimide | 16.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.32 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 375 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(2,2-Dimethoxyethoxy)-4-fluoro-3-methylbenzene | 13.5 g | COC(COC1=CC(=C(C=C1)F)C)OC | C11H15FO3
